* C:\Users\Abdulrahman\OneDrive\Documents\LTspice\rlc-resonant-filter.asc
* Generated by LTspice 24.1.9 for Windows.
V1 in 0 AC 1 0
R1 out in 100
C1 N001 0 1n
L1 out N001 10m
.ac dec 100 1k 1Meg
.backanno
.end
